US07375134B2
To a solution of methyl (4S)-N-[(benzyloxy)carbonyl]-5,5,5-trifluoro-L-leucinate (5.4 g, 16.2 mmol) in EtOH (150 mL) at room temperature was added LiCl (2.8 g, 66 mol) and the mixture was stirred for 10 to 15 min, followed by the addition of NaBH4 (2.5 g, 66 mmol). The mixture was stirred at room temperature for 6 h. After dilution with H2O (60 mL), the mixture was quenched with 6M aqueous HCl (18 mL). More H2O was added and the mixture was extracted with EtOAc (2×). The combined EtOAc extracts were washed with brine, dried (Na2SO4) and concentrated to give the crude benzyl (1S,3S)-4,4,4-trifluoro-1-(hydroxymethyl)-3-methylbutylcarbamate.

reactant | methyl (4S)-N-[(benzyloxy)carbonyl]-5,5,5-trifluoro-L-leucinate | 16.2 mmol, 5.4 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C[C@H](C)C(F)(F)F)C(=O)OC | C15H18F3NO4
reactant | LiCl | 66 mol, 2.8 g | [Li+].[Cl-]
reactant | NaBH4 | 66 mmol, 2.5 g | [BH4-].[Na+]
solvent | EtOH | 150 mL | CCO | C2H6O
product | benzyl (1S,3S)-4,4,4-trifluoro-1-(hydroxymethyl)-3-methylbutylcarbamate | FC([C@H](C[C@@H](CO)NC(OCC1=CC=CC=C1)=O)C)(F)F | C14H18F3NO3
